US04912117
A mixture containing 4-(methylphenyl)(4-piperidinyl)methanone (10.5 g, 0.052 mol), 2-bromoethyl benzene (11.1 g, 0.06 mol, 8.2 ml) in dry DMF (125 ml) was stirred at 100° C. for 23 h. The cooled reaction mixture was poured into H2O (600 ml) and extracted with toluene (4×200 ml). The extracts were washed with H2O (2×100 ml) saturated aqueous NaCl (100 ml) and dried over MgSO4. The mixture was filtered and the filtrate concentrated to a solid residue which was dissolved in dry Et2O and filtered. The filtrate was treated with a solution of HCl (0.052 mol) in CH3OH/EtOAc (9:20, 29 ml). The mixture was cooled and filtered to give a light tan powder. The solid was recrystallized twice from EtOH/Et2O to give (4-methylphenyl)[1-(2-phenylethyl)-4-piperidinyl)-methanone hydrochloride, which contains 0.4 mol of water of hydration and melts at 261°-263° C.

reactant | 4-(methylphenyl)(4-piperidinyl)methanone | 0.052 mol, 10.5 g | CC1=C(C=CC=C1)C1(CCNCC1)C=O | C13H17NO
reactant | 2-bromoethyl benzene | 0.06 mol, 8.2 ml, 11.1 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | H2O | 600 ml | O | H2O
reactant | HCl | 0.052 mol | Cl | ClH
reactant | DMF | 125 ml | CN(C)C=O | C3H7NO
solvent | CH3OH EtOAc | 29 ml | CO.CCOC(=O)C
product | (4-methylphenyl)[1-(2-phenylethyl)-4-piperidinyl)-methanone hydrochloride | Cl.CC1=CC=C(C=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C21H25NO.ClH/c1-17-7-9-19(10-8-17)21(23)20-12-15-22(16-13-20)14-11-18-5-3-2-4-6-18;/h2-10,20H,11-16H2,1H3;1H
